US07709468B2
Step A: 8-Chloro-2-(4-fluorophenyl)-imidazo[1,2-a]pyrazine
Into a 1-Neck round-bottom flask was added 2-bromo-1-(4-fluorophenyl)ethanone (125 g, 564 mmol) and 3-chloropyrazin-2-amine (128.9 g, 965.2 mmol) followed by ACN (750 mL). The mixture was stirred at reflux for about 24 h. The reaction mixture was cooled to about 45° C. before the solvent was removed in vacuo to yield a brown solid. The brown solid was suspended in water (500 mL) and basified, whilst stirring, with 2.5N NaOH (500 mL). The mixture was then stirred for about 30 min then re-acidified with 5N HCl (300 mL) and extracted with DCM (5×1000 mL). The combined organic layers were filtered from the insoluble material, washed with water (750 mL), followed by washing with 2.5N HCl (4×750 mL), 2.5N NaOH (500 mL) and water (2×500 mL), then dried over MgSO4 and filtered. The filtrate was eluted through a Florisil® pad (3 inch diameter×3 inch depth), washing with repeated amounts of DCM until no product detected by TLC. The organic solvent was removed in vacuo to yield a yellow solid, which was suspended in 2-propanol (500 mL) at about 80° C. for about 15 min and then cooled to about 30° C. The solid was filtered, washing with petroleum ether [bp 30-60° C.] (2×100 mL) and heptane (2×100 mL) to remove impurities, dried in vacuo at 45° C. to yield the title compound (78.2 g, 55.4%): LC/MS (Table 1, Method g) Rt=2.48 min; MS m/z: 248.2 (M+H)+.

reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 564 mmol, 125 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | 3-chloropyrazin-2-amine | 965.2 mmol, 128.9 g | ClC=1C(=NC=CN1)N | C4H4ClN3
reactant | ACN | 750 mL | C(C)#N | C2H3N
reactant | NaOH | 2.5N, 500 mL | [OH-].[Na+]
solvent | water | 500 mL | O | H2O
solvent | 2-propanol | 500 mL | CC(C)O | C3H8O
product | 8-Chloro-2-(4-fluorophenyl)-imidazo[1,2-a]pyrazine | 78.2 g, 55.4% | ClC=1C=2N(C=CN1)C=C(N2)C2=CC=C(C=C2)F | C12H7ClFN3
